US07687491B2
(22a) [5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-2-thienyl]methanol
To a solution of 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde that was obtained in Example 10 (10b) (1.5 g, 5.8 mmol) in methanol (10 mL) were slowly added sodium borohydride (0.22 g, 5.8 mmol) at 0° C. with stirring, and the resulting mixture was stirred for 30 minutes. After stirring, the solvent was evaporated in vacuo. Subsequently, a solution of the residue obtained in ether was poured into water (20 mL) and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:4 to 3:7) as the eluent to afford the pure title compound (1.4 g) in a yield of 94% as a colourless oily product.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-3-ethylthiophene-2-carboxaldehyde | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)C=O)CC | C14H24O2SSi
reactant | sodium borohydride | 5.8 mmol, 0.22 g | [BH4-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | [5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-3-ethyl-2-thienyl]methanol | yield of 94% | [Si](C)(C)(C(C)(C)C)OCC1=CC(=C(S1)CO)CC | C14H26O2SSi
